US08871756B2
N-[(1-Benzylamino-cyclobutyl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)-6-methylquinazolin-4-amine
The title compound was prepared in analogy to N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine in Example 61-1 in Scheme 24 by using 2,4-dichloro-6-methylquinazoline, 1-(aminomethyl)-N-dibenzylcyclobutanamine and 2,3,4,5-tetrahydro-1,4-benzothiazepine.

reactant | N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | C(C1=CC=CC=C1)N(C1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)CC2=CC=CC=C2 | C36H37N5O3S
reactant | 2,4-dichloro-6-methylquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | S1CCNCC2=C1C=CC=C2 | C9H11NS
product | N-[(1-Benzylamino-cyclobutyl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)-6-methylquinazolin-4-amine | C(C1=CC=CC=C1)NC1(CCC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C30H33N5O2S
